US08008327B2
To a solution of 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid (0.400 g, 1.56 mmol) in CH2Cl2 (5 mL) at room temperature was added oxalyl chloride (0.86 mL, 1.7 mmol) followed by DMF (20 μL). Gas evolution was observed. After 30 minutes, the solution was concentrated in vacuo to afford 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid chloride which was used without further purification.

reactant | 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid | 1.56 mmol, 0.400 g | FC1=CC=C(C=C1)N1N=CC=2C(=CC=CC12)C(=O)O | C14H9FN2O2
reactant | oxalyl chloride | 1.7 mmol, 0.86 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 20 μL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid chloride | FC1=CC=C(C=C1)N1N=CC=2C(=CC=CC12)C(=O)Cl | C14H8ClFN2O
